US08440830B2
4-piperidone monohydrate hydrochloride (250 g, 1.62 mole) was dissolved in dioxane (1.5 L) and water (0.5 L). 217 g of NaHCO3 was added at 0° C. followed by slow addition of (BOC)2O (459 g, 2.1 mole). Reaction mixture was stirred for overnight. Solution was concentrated; residue was taken in water and extracted with ethyl acetate, washed with water and dried over anhydrous Na2SO4. Solvent was evaporated and product obtained was washed with hexane to get N-boc 4-piperidone (280 g).

reactant | 4-piperidone monohydrate hydrochloride | 1.62 mole, 250 g | Cl.O.N1CCC(CC1)=O
reactant | NaHCO3 | 217 g | C(=O)(O)[O-].[Na+]
reactant | (BOC)2O | 2.1 mole, 459 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 1.5 L | O1CCOCC1 | C4H8O2
solvent | water | 0.5 L | O | H2O
product | N-boc 4-piperidone | 280 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
